US08404719B2
3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[4-(trifluoromethyl)phenyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.359 g, 1.5 mmol) in anhydrous dichloromethane (80 mL) was added (R)-octahydropyrrolo[1,2-α]pyrazine (0.189 g, 1.5 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.32 g, 2 mmol) was added, and the mixture was stirred at room temperature for 5 hours. Subsequently 4-(trifluoromethyl)aniline (2.42 g, 15 mmol) was added. The mixture was stirred at room temperature for 3 days, and then sodium carbonate (0.32 g, 3 mmol) and methanol (5 mL) were added. The mixture was stirred for 20 minutes, then filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (methanol/ethyl acetate=1:10) to give the titled compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-1.90 (m, 6H), 2.10 (m, 1H), 2.70-3.15 (m, 5H), 4.40-4.60 (m, 1H), 7.30 (d, 2H, J=7 Hz), 7.63 (m, 4H), 7.76 (br s, 1H), 7.90 (m, 1H), 10.85 (br s, 1H); MS (ESI) m/z 454 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.5 mmol, 0.359 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 1.5 mmol, 0.189 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
reactant | sodium carbonate | 2 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(trifluoromethyl)aniline | 15 mmol, 2.42 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[4-(trifluoromethyl)phenyl]benzenesulfonamide | C1[C@@H]2N(CCN1C(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=CC=C(C=C1)C(F)(F)F)CCC2 | C21H22F3N3O3S
